US05891909
b) 3-[3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxy]propionaldehyde benzylisothiosemicarbazone
A solution of benzyl bromide (15.5 μL, 0.13 mmol) in tetrahydrofuran (1.5 mL) and methanol (0.5 mL) was added dropwise over 20 minutes to a mixture of 3-[3-(2-methoxyphenylsulfonyloxy)-5-methylphenoxy]-propionaldehyde thiosemicarbazone (55.3 mg, 0.13 mmol, as prepared in the preceding step) and sodium bicarbonate (28.8 mg, 0.34 mmol) in tetrahydrofuran (1.5 mL) and methanol (0.5 mL). The reaction was stirred for 5 hours at ambient temperature, then additional benzyl bromide (15.5 μL, 0.13 mmol) in tetrahydrofuran (1 mL) was added dropwise over 5 minutes. The reaction was stirred overnight at ambient temperature then concentrated to remove solvents. The residue was triturated with dichloromethane and filtered through Celite. After concentration, crude product was purified by flash column chromatography through silica gel (1:1 diethyl ether/hexane) to give the title compound as an oil (42 mg, 1:4 mixture of isomers, 62%). 1H-NMR (300 MHz, CDCl3) δ 7.80-7.85 (m, 2H), 7.57-7.63 (m, 1H), 7.23-7.40 (m, 5H), 6.98-7.12 (m, 2H), 6.59 (br s, 1H), 6.52 (br s, 1H), 6.46 (t, 1H, J=2 Hz), 4.29 and 4.28 (s, 1H), 4.10 (t, 2H, J=6.5 Hz), 4.01 (s, 3H), 2.94 and 2.73 (q, 2H, J=6 Hz), 1.55 (s, 3H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C25H27N3O5S2 : 514.1 (M+H). Found: 513.6.

reactant | benzyl bromide | 0.13 mmol, 15.5 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3-[3-(2-methoxyphenylsulfonyloxy)-5-methylphenoxy]-propionaldehyde thiosemicarbazone | COC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCC=NNC(=S)N)C=C(C1)C | C18H21N3O5S2
reactant | sodium bicarbonate | 0.34 mmol, 28.8 mg | C([O-])(O)=O.[Na+]
reactant | benzyl bromide | 0.13 mmol, 15.5 μL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 3-[3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxy]propionaldehyde benzylisothiosemicarbazone | 42 mg, 62% | C(C1=CC=CC=C1)N(N=CCCOC1=CC(=CC(=C1)C)OS(=O)(=O)C1=C(C=CC=C1)OC)C(S)=N | C25H27N3O5S2
